US07148226B2
Ethyl 2-({6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-4-hydroxy-2-oxo-5,6-dihydro-2H-pyran-3-yl}thio)[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate
The title compound was prepared as described in Example C(70), where 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3 H)-dione was used in place of 3-chloro-6-[2-(5-chloro-2,4-dimethoxyphenyl)ethyl]6-cyclopentyldihydro-2H-pyran-2,4(3H)-dione and ethyl 2-mercapto[1,2,4]triazolo-[1,5-a]pyrimidine-6-carboxylate was used in place of 6-hydroxy-8-mercaptopurine monohydrate.

reactant | 3-chloro-6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyldihydro-2H-pyran-2,4(3 H)-dione | ClC1C(OC(CC1=O)(C1CCCC1)CCC1=CC(=C(C=C1)OC)Cl)=O | C19H22Cl2O4
reactant | ethyl 2-mercapto[1,2,4]triazolo-[1,5-a]pyrimidine-6-carboxylate | SC1=NN2C(N=CC(=C2)C(=O)OCC)=N1 | C8H8N4O2S
product | Ethyl 2-({6-[2-(3-chloro-4-methoxyphenyl)ethyl]-6-cyclopentyl-4-hydroxy-2-oxo-5,6-dihydro-2H-pyran-3-yl}thio)[1,2,4]triazolo[1,5-a]pyrimidine-6-carboxylate | ClC=1C=C(C=CC1OC)CCC1(CC(=C(C(O1)=O)SC1=NN2C(N=CC(=C2)C(=O)OCC)=N1)O)C1CCCC1 | C27H29ClN4O6S
